US05312831
N-(1-oxoheptyl)-D-allo-Threonine (2c-1)
A solution of n-heptanoyl chloride (440 mL, 2.83 mmol) in THF (250 mL) is added dropwise, over a period of 30 min, to a cold (-5 to 0° C., vigorously stirred mixture of D-allo-Thr (300 mg, 2.51 mmol) and 2N aq. NaOH (3.5 mL, 7.0 meq) in THF (4.0 mL). The resulting mixture is stirred for 2 h at the same temperature and overnight at room temperature. The volatiles are removed and the residue is diluted with o water and acidified, using conc. HCl. The mixture is extracted with EtOAc and the combined organic solution is washed with brine, dried, filtered, and concentrated to provide crude 2c-1 (420 mg, containing 10% excess heptanoyl reagent) which solidifies upon standing. NMR δ1.28 (d, J=6.5, 3H), 4.20 (m, 1H), 4.61 (dd, J=3.4, 6.6, 1H), 6.56 (br d, J=6.9, 1H); [α]D26 -38±2 (CHCl3).

reactant | n-heptanoyl chloride | 2.83 mmol, 440 mL | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | D-allo-Thr | 2.51 mmol, 300 mg | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | NaOH | 2N, 3.5 mL, 7.0 meq | [OH-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | N-(1-oxoheptyl)-D-allo-Threonine | O=C(CCCCCC)N[C@H]([C@H](O)C)C(=O)O | C11H21NO4
